US08026234B2
2-chloro-7,7-difluoro-9-isopropyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one:
Ethyl 3-((2-chloro-5-nitropyrimidin-4-yl)(isopropyl)amino)-2,2-difluoropropanoate (1.90 g, 5.39 mmol) was dissolved in HOAc (10 mL) and HCl (conc, 3.1 mL). Iron (0.610 g, 10.9 mmol) was added and the rm was stirred at rt for 3 h and at 60° C. overnight. The mixture was diluted with water and extracted with ethyl acetate. The combined organic extracts were dried, filtered and concentrated in vacuo. The residue was purified using flash column chromatography on silica gel (40 g SiO2, hexanes:ethyl acetate 2:1-1:1) to afford the title compounds as a light yellow solid (0.809 g, 54%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.27 (d, J=6.82 Hz, 6H) 3.42 (s, 3H) 3.89 (t, J=12.38 Hz, 2H) 4.97-5.10 (m, 1H) 8.06 (s, 1H).

reactant | Ethyl 3-((2-chloro-5-nitropyrimidin-4-yl)(isopropyl)amino)-2,2-difluoropropanoate | 5.39 mmol, 1.90 g | ClC1=NC=C(C(=N1)N(CC(C(=O)OCC)(F)F)C(C)C)[N+](=O)[O-] | C12H15ClF2N4O4
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
solvent | HCl | 3.1 mL | Cl | ClH
solvent | water | O | H2O
catalyst | Iron | 10.9 mmol, 0.610 g | [Fe] | Fe
product | 2-chloro-7,7-difluoro-9-isopropyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.809 g, 54% | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)C(C)C)N1 | C10H11ClF2N4O
